US08242125B2
110-A. 5-{6-[(4-Bromo-butyrylamino)-methyl]-pyrimidin-4-yloxy}-indole-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide
5-(6-Aminomethyl-pyrimidin-4-yloxy)-indole-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide (52.5 mg, 0.117 mmol) is dissolved in DCM (5 mL) at 0° C. DIEA (0.025 mL, 0.143 mmol) is added followed by 4-bromo-butyryl chloride (0.020 mL, 0.172 mmol). The reaction is stirred for 30 min before being diluted with ethyl acetate and washed with water. The organic layer is removed, dried, and concentrated to provide the title compound. MS (ESI) m/z 595.6 (M+1).

reactant | 5-(6-Aminomethyl-pyrimidin-4-yloxy)-indole-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | 0.117 mmol, 52.5 mg | FC1=C(C=C(C=C1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CN)C(F)(F)F | C21H15F4N5O2
reactant | DIEA | 0.143 mmol, 0.025 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-bromo-butyryl chloride | 0.172 mmol, 0.020 mL | BrCCCC(=O)Cl | C4H6BrClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-{6-[(4-Bromo-butyrylamino)-methyl]-pyrimidin-4-yloxy}-indole-1-carboxylic acid (4-fluoro-3-trifluoromethyl-phenyl)-amide | FC1=C(C=C(C=C1)NC(=O)N1C=CC2=CC(=CC=C12)OC1=NC=NC(=C1)CNC(CCCBr)=O)C(F)(F)F | C25H20BrF4N5O3
